### PR TITLE
[Merged by Bors] - feat(CategoryTheory): accessible functors and presentable objects

### PR DESCRIPTION
**Pull request by joelriou**
This PR introduces the notions of accessible functors and of presentable objects. An object `X` in a category is `κ`-presentable (for `κ` a regular cardinal) if the functor `Hom(X, -)` commutes with colimits indexed by `κ`-filtered categories.

---

- [x] depends on: #19945
- [x] depends on: #19959
- [x] depends on: #20005

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Presentable/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,127 @@
+/-
+Copyright (c) 2024 Joël Riou. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Joël Riou
+-/
+
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Presentable/Basic.lean:6]:
```suggestion
```
Sorry for suggesting this change again and again, but the style guide is very explicit about this.

File: Mathlib/CategoryTheory/Presentable/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,127 @@
...
+    [F.IsCardinalAccessible κ] {κ' : Cardinal.{w}} [Fact κ'.IsRegular] (h : κ ≤ κ') :
+    F.IsCardinalAccessible κ' where
+  preservesColimitOfShape {J _ _} := by
+    have := IsCardinalFiltered.of_le J h
+    exact F.preservesColimitsOfShape_of_isCardinalAccessible κ J
+
+include e in
+variable {F G} in
+lemma isCardinalAccessible_of_iso [F.IsCardinalAccessible κ] : G.IsCardinalAccessible κ where
+  preservesColimitOfShape J _ hκ  := by
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Presentable/Basic.lean:76]:
```suggestion
  preservesColimitOfShape J _ hκ := by
```

File: Mathlib/CategoryTheory/Presentable/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,127 @@
...
+lemma isCardinalAccessible_of_le
+    [F.IsCardinalAccessible κ] {κ' : Cardinal.{w}} [Fact κ'.IsRegular] (h : κ ≤ κ') :
+    F.IsCardinalAccessible κ' where
+  preservesColimitOfShape {J _ _} := by
+    have := IsCardinalFiltered.of_le J h
+    exact F.preservesColimitsOfShape_of_isCardinalAccessible κ J
+
+include e in
+variable {F G} in
+lemma isCardinalAccessible_of_iso [F.IsCardinalAccessible κ] : G.IsCardinalAccessible κ where
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Presentable/Basic.lean:75]: Should this be
```suggestion
lemma isCardinalAccessible_of_natIso [F.IsCardinalAccessible κ] : G.IsCardinalAccessible κ where
```
analogously to `preservesColimitsOfShape_of_natIso`?

File: Mathlib/CategoryTheory/Presentable/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,127 @@
...
+
+open Limits Opposite
+
+variable {C : Type u} [Category.{v} C] {D : Type u'} [Category.{v'} D]
+
+namespace Functor
+
+variable (F G : C ⥤ D) (e : F ≅ G) (κ : Cardinal.{w}) [Fact κ.IsRegular]
+
+/-- A functor `F : C ⥤ C` is `κ`-accessible (with `κ` a regular cardinal)
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Presentable/Basic.lean:42]:
```suggestion
/-- A functor `F : C ⥤ D` is `κ`-accessible (with `κ` a regular cardinal)
```

**Review by TwoFX — APPROVED** [review]
Thanks!
bors d+

**Comment by joelriou** [comment]
Thanks!

bors merge

**Comment by joelriou** [comment]
bors cancel

**Comment by joelriou** [comment]
bors merge
